US06339099B1
To a solution of 7-aminoisoquinoline (7.0 g) in TFA (35 mL) at 0° C. was added sodium nitrite (4.02 g) portionwise over a period of 30 minutes. The reaction was stirred at 0° C. to room temperature for 1.5 h. Water (3.5 mL) was added followed by portionwise addition of sodium azide (3.48 g) at 0° C. over a period of 30 minutes. After the addition, the reaction was slowly warmed up to room temperature and stirred for 1 h. Two third of TFA was evaporated and the residue was cooled to 0° C. Sodium bicarbonate (sat. in water) was added dropwisely to the residue until the pH was about 8-9. After extraction with methylene chloride (4×60 mL), the organic phase was combined, washed with water, brine, dried over sodium sulfate, filtered and concentrated to leave 7-azidoisoquinoline (7.5 g) as a dark brown solid. CI mass spectrum z (rel. intensity) 171 (M+H, 100).

reactant | 7-aminoisoquinoline | 7.0 g | NC1=CC=C2C=CN=CC2=C1 | C9H8N2
reactant | sodium nitrite | 4.02 g | N(=O)[O-].[Na+]
reactant | Water | 3.5 mL | O | H2O
reactant | sodium azide | 3.48 g | [N-]=[N+]=[N-].[Na+]
solvent | TFA | 35 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-azidoisoquinoline | 7.5 g | N(=[N+]=[N-])C1=CC=C2C=CN=CC2=C1 | C9H6N4
